US08022062B2
7-Acetyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Mix-acetyl-9-bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (833 mg, 2.2 mmol), tetrakis(triphenylphosphine)palladium(0) (150 mg, 0.13 mmol) and sodium formate (224 mg, 3.3 mmol) in anhydrous DMF (15 mL). Degas twice then flush with argon. Keep the flask under argon and heat the reaction at 95° C. for 16 h. Dilute with EtOAc then wash with 1N aqueous HCl. Separate the organic layer, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/hexane (0:1, 1:9 and 1:4) to give the desired intermediate (448 mg, 68%). MS (ES+) m/z: 302 (+H)+.

reactant | acetyl-9-bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.2 mmol, 833 mg | C(C)(=O)C1CN(CCC2=C1C(=CC=C2O)Br)C(C(F)(F)F)=O | C14H13BrF3NO3
reactant | sodium formate | 3.3 mmol, 224 mg | C(=O)[O-].[Na+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.13 mmol, 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Acetyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 448 mg, 68% | C(C)(=O)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C14H14F3NO3
